US04229449
Under an atmosphere of nitrogen to 15.7 g of 2-hydroxy-3-(2-chlorophenyl)-3-(2-methoxy-phenoxy)-propionitrile in 110 ml of anhydrous THF there was added at 15° C. 46.2 ml of a 1.35 M solution of diborane in tetrahydrofuran. Stirring was continued at room temperature for 16 hours. A small quantity of ethanol was added and the whole was evaporated to dryness. The residue was dissolved in ethyl ether, extracted with 3% HCl, made alkaline with 20% NaOH, re-extracted with ethyl ether. After washing with water, drying over Na2SO4, filtration and evaporation to dryness, there was obtained 12.45 g of 2-hydroxy-3-(2-methoxy-phenoxy)-3-(2-chlorophenyl)-propylamine. Yield 78%.

reactant | 2-hydroxy-3-(2-chlorophenyl)-3-(2-methoxy-phenoxy)-propionitrile | 15.7 g | OC(C#N)C(OC1=C(C=CC=C1)OC)C1=C(C=CC=C1)Cl | C16H14ClNO3
reactant | diborane | B#B | B2
reactant | ethanol | C(C)O | C2H6O
solvent | THF | 110 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-hydroxy-3-(2-methoxy-phenoxy)-3-(2-chlorophenyl)-propylamine | 12.45 g, Yield 78% | OC(CN)C(C1=C(C=CC=C1)Cl)OC1=C(C=CC=C1)OC | C16H18ClNO3
